US04018797
Preparation of Compound VI, 2-Carbomethoxy-3-Oxo-5-Acetoxycyclopentaneacetic Acid Methyl Ester
The cyclopentene acid, V, (9.5 g.) is dissolved in 180 ml. of benzene and the solution is hydrogenated at room temperature and atmospheric pressure in the presence of 0.5 g. of palladiated barium sulfate. When the theoretical amount of hydrogen is absorbed, catalyst is filtered off and the solution is evaporated to dryness under vacuum, yielding 9 g. (95%) of the methy ester of 2-carbomethoxy-3-oxo-5-acetoxycyclopentaneacetic acid with the required stereochemical configuration. The compound is a rather unstable solid, melting at 54° C; [α]d25 :- 17.8 (C=1.017% in CHCl3).

reactant | cyclopentene | C1=CCCC1 | C5H8
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | barium sulfate | S(=O)(=O)([O-])[O-].[Ba+2]
reactant | 2-carbomethoxy-3-oxo-5-acetoxycyclopentaneacetic acid | C(=O)(OC)C1C(C(CC1=O)OC(C)=O)CC(=O)O | C11H14O7
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-Carbomethoxy-3-Oxo-5-Acetoxycyclopentaneacetic Acid Methyl Ester | COC(CC1C(C(CC1OC(C)=O)=O)C(=O)OC)=O | C12H16O7
